US09358231B2
A. 5-(6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-1-naphthoic acid
To a solution of 6-chloro-4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine (400 mg, 1.22 mmol) in DMSO (4 mL) were added K2CO3 (507 mg, 3.67 mmol) and 5-hydroxy-1-naphthoic acid (230 mg, 1.22 mmol). The reaction mixture was stirred for overnight at 100° C. after which, It was cooled to room temperature. To the reaction mixture was added 1N HCl solution to reach pH=5. The produced solid was filtered and dried nitrogen gas flow. The title compound (380 mg, 66% yield) was used next reaction without further purification. MS m/z: 469 [M+1].

reactant | 6-chloro-4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine | 1.22 mmol, 400 mg | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)[N+](=O)[O-] | C13H18ClN3O3Si
reactant | K2CO3 | 3.67 mmol, 507 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-hydroxy-1-naphthoic acid | 1.22 mmol, 230 mg | OC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H8O3
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 5-(6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-1-naphthoic acid | 380 mg, 66% yield | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)OC2=C1C=CC=C(C1=CC=C2)C(=O)O | C24H25ClN2O4Si
